US04696964
N-Dodecyl-O-benzylhydroxylamine
A mixture of 11.55 g of benzyloxyamine hydrochloride, 31.0 g of sodium carbonate and 34.8 ml of dodecylbromide in 100 ml of dimethylformamide is heated at 70° C. for 24 hours, and a further 24 hours at 80° C. The solvent is removed under reduced pressure and the residue is partitioned between water and methylene chloride. The organic layer is washed with water, brine, dried (MgSO4) and evaporated to give an oily residue. Liquid chromatography affords the title compound as a thick oil.

reactant | benzyloxyamine hydrochloride | 11.55 g | Cl.C(C1=CC=CC=C1)ON
reactant | sodium carbonate | 31.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dodecylbromide | 34.8 ml | C(CCCCCCCCCCC)Br | C12H25Br
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-Dodecyl-O-benzylhydroxylamine | C(CCCCCCCCCCC)NOCC1=CC=CC=C1 | C19H33NO
